US09085540B2
A mixture of 5-chloro-3-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3-methylphenyl]amino}pyrazine-2-carboxamide (1.7 g), tert-butyl (3R)-3-aminopyrrolidine-1-carboxylate (3.57 mL), and N-methylpyrrolidone (10.8 mL) was reacted in a microwave reaction device at 190° C. for 60 minutes. The reactant was left to be cooled, and then water and a saturated aqueous sodium hydrogen carbonate solution were added thereto, followed by extraction with ethyl acetate. The organic phase was dried over anhydrous magnesium sulfate and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-500:10:1) to obtain tert-butyl (3R)-3-[(5-carbamoyl-6-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3-methylphenyl]amino}pyrazin-2-yl)amino]pyrrolidine-1-carboxylate (1.71 g) as a yellow amorphous substance.

reactant | 5-chloro-3-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3-methylphenyl]amino}pyrazine-2-carboxamide | 1.7 g | ClC=1N=C(C(=NC1)C(=O)N)NC1=CC(=C(C=C1)N1CCC2(OCCO2)CC1)C | C19H22ClN5O3
reactant | tert-butyl (3R)-3-aminopyrrolidine-1-carboxylate | 3.57 mL | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N-methylpyrrolidone | 10.8 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | tert-butyl (3R)-3-[(5-carbamoyl-6-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3-methylphenyl]amino}pyrazin-2-yl)amino]pyrrolidine-1-carboxylate | 1.71 g | C(N)(=O)C=1N=CC(=NC1NC1=CC(=C(C=C1)N1CCC2(OCCO2)CC1)C)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C28H39N7O5
